US07842672B2
1-[3-Benzoyloxy-5-(diethoxy-phosphorylmethoxy)-tetrahydro-furan-2-yl]-1H-[1,2,4]triazole-3-carboxylic acid methyl ester
Benzoic acid 2-acetoxy-5-(diethoxy-phosphorylmethoxy)-tetrahydro-furan-3-yl ester (170 mg, 0.4 mmol), 1H-[1,2,4]Triazole-3-carboxylic acid methyl ester (51 mg, 0.4 mmol) and Bis-(p-nitrophenyl)phosphate were reacted according to literature procedure (J. Med. Chem. 2000, 43, 1019-1028). The desired product was isolated in 65% yield (150 mg). 1H NMR (CDCl3, 300 MHz) δ 8.60 (s, 1H), 8.00 (d, 2H, J=7.8 Hz), 7.60 (t, 1H, J=7.2 Hz), 7.45 (app t, 2H, J=7.7 Hz), 6.29 (d, 1H, J=1.5 Hz), 5.91-5.98 (m, 1H), 5.67-5.71 (m, 1H), 4.11-4.23 (m, 4H), 3.96-4.04 (m, 4H), 3.85-3.92 (m, 1H), 2.55-2.72 (m, 2H), 1.29-1.37 (m, 6H). 31P NMR (121.4 MHz, CDCl3) δ 19.8. LRMS (ESI) MH+ C20H27N3O9P requires 484.1 Found 483.8.

reactant | Benzoic acid 2-acetoxy-5-(diethoxy-phosphorylmethoxy)-tetrahydro-furan-3-yl ester | 0.4 mmol, 170 mg | C(C)(=O)OC1OC(CC1OC(C1=CC=CC=C1)=O)OCP(=O)(OCC)OCC | C18H25O9P
reactant | 1H-[1,2,4]Triazole-3-carboxylic acid methyl ester | 0.4 mmol, 51 mg | COC(=O)C1=NNC=N1 | C4H5N3O2
reactant | Bis-(p-nitrophenyl)phosphate | [N+](=O)([O-])C1=CC=C(C=C1)OP(=O)(OC1=CC=C(C=C1)[N+](=O)[O-])[O-]
product | 1-[3-Benzoyloxy-5-(diethoxy-phosphorylmethoxy)-tetrahydro-furan-2-yl]-1H-[1,2,4]triazole-3-carboxylic acid methyl ester | 65% yield | COC(=O)C1=NN(C=N1)C1OC(CC1OC(C1=CC=CC=C1)=O)OCP(=O)(OCC)OCC | C20H26N3O9P
